US08067406B2
Production of 1-(3-(2-(1-benzothiophene-6-yl)ethoxy)propyl)-3-azetidinol hydrochloride
0.28 g of 1-(3-(2-(1-benzothiophene-6-yl)ethoxy)propyl)-3-azetidinol was dissolved in 3.0 ml of ethyl acetate. Thereafter, 0.35 ml of an ethyl acetate solution containing 3.25 mol/l dry hydrogen chloride was added to the obtained solution, and the obtained mixture was stirred at a room temperature for 1 hour. Subsequently, the solvent was distilled away under a reduced pressure, so as to obtain 0.30 g of a light yellow oil product, 1-(3-(2-(1-benzothiophene-6-yl)ethoxy)propyl)-3-azetidinol hydrochloride.

reactant | 1-(3-(2-(1-benzothiophene-6-yl)ethoxy)propyl)-3-azetidinol | 0.28 g | S1C=CC2=C1C=C(C=C2)CCOCCCN2CC(C2)O | C16H21NO2S
reactant | hydrogen chloride | 3.25 mol/l | Cl | ClH
solvent | ethyl acetate | 3.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.35 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-(2-(1-benzothiophene-6-yl)ethoxy)propyl)-3-azetidinol hydrochloride | 0.30 g | Cl.S1C=CC2=C1C=C(C=C2)CCOCCCN2CC(C2)O | InChI=1S/C16H21NO2S.ClH/c18-15-11-17(12-15)6-1-7-19-8-4-13-2-3-14-5-9-20-16(14)10-13;/h2-3,5,9-10,15,18H,1,4,6-8,11-12H2;1H
